US04587241
Preparation of allyl-5-chloromethyl-imidazol-1-yl acetate hydrochloride
React allyl-5-hydroxymethylimidazol-1-yl acetate with excess thionyl chloride in CH2Cl2 at ice bath temperatures for about 8 hours to form the title compound.

reactant | allyl-5-hydroxymethylimidazol-1-yl acetate | C(C)(=O)ON1C(=NC=C1CO)CC=C | C9H12N2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | allyl-5-chloromethyl-imidazol-1-yl acetate hydrochloride | Cl.C(C)(=O)ON1C(=NC=C1CCl)CC=C | InChI=1S/C9H11ClN2O2.ClH/c1-3-4-9-11-6-8(5-10)12(9)14-7(2)13;/h3,6H,1,4-5H2,2H3;1H
